US05070089
In a nitrogen atmosphere, 1.57 g (10.0 mmol.) of 3-methoxybenzyl chloride, 2.00 g (10.0 mmol., purity 88.1%) of methyl 1-piperazinecarbodithioate, 1.06 g (10.0 mmol.) of anhydrous sodium carbonate and 20 ml of ethanol. The mixture was refluxed under heating for 5 hours. The solvent was distilled off under reduced pressure. The residue was mixed with 15 ml of dichloromethane and 10 ml of water. The mixture was allowed to give separated layers. The organic solvent portion was washed with water and a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and placed under reduced pressure to distill off the solvent. The residue was purified over a silica gel column to give 2.46 g of methyl 4-(3-methoxybenzyl)-1-piperazinecarbodithioate as a colorless crystalline product, yield 82.8%.

reactant | 3-methoxybenzyl chloride | 10.0 mmol, 1.57 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | methyl 1-piperazinecarbodithioate | 10.0 mmol, 2.00 g | N1(CCNCC1)C(=S)SC | C6H12N2S2
reactant | sodium carbonate | 10.0 mmol, 1.06 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | methyl 4-(3-methoxybenzyl)-1-piperazinecarbodithioate | 2.46 g, yield 82.8% | COC=1C=C(CN2CCN(CC2)C(=S)SC)C=CC1 | C14H20N2OS2
